### PR TITLE
reorder

### PR DESCRIPTION
**Pull request by awalterschulze**

### CODE REVIEW

File: reorder.v [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+Qed.
+
+(* eval_list_sort_is_correct shows that
+   eval_list_sort is equivalent to eval_list
+*)
+Theorem eval_list_sort_is_correct
+    : forall (xs: list X)
+    , eval_list xs = eval_list_sort xs.
+Proof.
+(* TODO: Help Wanted *)
```
Comment (awalterschulze) [inline reorder.v]: I don't know how to prove this.
Does anyone have any ideas?

File: reorder.v [hunk 2]
```diff
@@ -0,0 +1,182 @@
...
+Qed.
+
+(* eval_tree_sort_is_correct shows that
+   eval_tree_sort is equivalent to eval_tree
+*)
+Theorem eval_tree_sort_is_correct
+    : forall (xs: tree X)
+    , eval_tree xs = eval_tree_sort xs.
+Proof.
+(* TODO: Help Wanted *)
```
Comment (awalterschulze) [inline reorder.v]: I don't know how to prove this.
Does anyone have any ideas?

File: reorder.v (hunk 1 above)
Comment (mheiber) [reply reorder.v]: Taking a stab at this by induction, here's a start:

```coq
intros. induction xs.
- cbv delta. simpl. rewrite proof_id. reflexivity.
- 
```

Comment (Nielius) [reply reorder.v]: I've got a proof for both this and the statement below now:
https://github.com/awalterschulze/regex-reexamined-coq/pull/14

(But it would be interesting to see what other people come up with! And I found it a very nice exercise to try.)

File: reorder.v (hunk 2 above)
Comment (Nielius) [reply reorder.v]: https://github.com/awalterschulze/regex-reexamined-coq/pull/14

**Comment by awalterschulze** [comment]
@Nielius or @paulcadman could you approve this pull request or request modifications, so we can merge this and Nielus's pull request with the proofs?

**Comment by awalterschulze** [comment]
Will do, I am working on it :)
